US07750017B2
Preparation of [3-chloro-4-(3-fluoro-benzyloxy)-phenyl]-[7-(2-imidazol-1-yl-ethyl)-benzo[4,5]thieno[2,3-d]pyrimidin-4-yl]-amine
To a solution of 7-(2-bromoethyl)-N-{3-chloro-4-[(3-fluorobenzyl)oxy]phenyl}[1]benzothieno[2,3-d]pyrimidin-4-amine (40 mg, 0.07 mmol, 1 equiv) in DMF were added sodium iodide (11 mg, 0.07 mmol, 1 equiv), sodium carbonate (16 mg, 0.15 mmol, 2 equiv), and imidazole (10 mg, 0.15 mmol, 2 equiv). The resulting mixture was heated at 80° C. for 14 h. The reaction was cooled to rt and then concentrated in vacuo. The resulting crude material was purified by prep-TLC (10% methanol/DCM) and afforded a yellow solid (17.9 mg, 0.03 mmol, 45%). 1H-NMR (CD3OD) δ 8.40 (s, 1H), 8.24 (d, J=8.3 Hz, 1H), 7.71 (m, 2H), 7.45-7.36 (m, 3H), 7.28 (d, J=8.1 Hz, 2H), 7.23 (d, J=9.6 Hz, 1H), 7.10 (d, J=8.1 Hz, 1H), 7.09 (s, 1H), 7.04 (td, 1H), 6.92 (s, 1H), 5.12 (s, 2H), 4.35 (t, 2H), 3.23 (t, 2H); LCMS RT=3.22 min, [M+H]+=530

reactant | 7-(2-bromoethyl)-N-{3-chloro-4-[(3-fluorobenzyl)oxy]phenyl}[1]benzothieno[2,3-d]pyrimidin-4-amine | 0.07 mmol, 40 mg, 1 equiv | BrCCC1=CC2=C(C=C1)C1=C(N=CN=C1NC1=CC(=C(C=C1)OCC1=CC(=CC=C1)F)Cl)S2 | C25H18BrClFN3OS
reactant | sodium iodide | 0.07 mmol, 11 mg, 1 equiv | [I-].[Na+]
reactant | sodium carbonate | 0.15 mmol, 16 mg, 2 equiv | C([O-])([O-])=O.[Na+].[Na+]
reactant | imidazole | 0.15 mmol, 10 mg, 2 equiv | N1C=NC=C1 | C3H4N2
solvent | DMF | CN(C)C=O | C3H7NO
product | [3-chloro-4-(3-fluoro-benzyloxy)-phenyl]-[7-(2-imidazol-1-yl-ethyl)-benzo[4,5]thieno[2,3-d]pyrimidin-4-yl]-amine | 0.03 mmol, 17.9 mg, 45% | ClC=1C=C(C=CC1OCC1=CC(=CC=C1)F)NC=1C2=C(N=CN1)SC1=C2C=CC(=C1)CCN1C=NC=C1 | C28H21ClFN5OS
